US07772253B2
The necessary intermediate 2,6-Diethoxy-biphenyl-4-carbaldehyde was prepared as described in example 94, but reacting in the Suzuki coupling 3,5-diethoxy-4-iodo-benzaldehyde (CAS No. 338454-05-0) instead of 3-benzyloxy-5-ethoxy-4-iodo-benzaldehyde with phenyl boronic acid instead of 4-fluorophenyl boronic acid, as white solid.

reactant | 3,5-diethoxy-4-iodo-benzaldehyde | C(C)OC=1C=C(C=O)C=C(C1I)OCC | C11H13IO3
reactant | 3-benzyloxy-5-ethoxy-4-iodo-benzaldehyde | C(C1=CC=CC=C1)OC=1C=C(C=O)C=C(C1I)OCC | C16H15IO3
reactant | phenyl boronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 2,6-Diethoxy-biphenyl-4-carbaldehyde | C(C)OC1=C(C(=CC(=C1)C=O)OCC)C1=CC=CC=C1 | C17H18O3
